US05300605
1,1-Diphenyl-1-silacyclopent-3-ene
Into a 1000 mL three necked rb flask, equipped with a reflux condenser was placed magnesium powder (26.4 g)(1.1 mol), diphenyldichlorosilane (253 g)(1 mol) and THF (500 mL). The reflux condenser was connected to a refrigeration unit with ethylene glycol cooled at -20° C. circulating. With stirring, 1,3-butadiene (81 g) (1.5 mol, 125 mL) at -78° C. Was transferred to this reaction system via a cannula. The reaction mixture was stirred over 72h. The reaction mixture was hydrolyzed with saturated ammonium chloride solution (100 mL) and 100 ml ether was added. The organic solution was separated. The water layer was washed with ether (2×50 mL). The combined organic solution was dried over anhydrous magnesium sulfate, filtered and the volatile solvents removed by evaporation under reduced pressure. The product was purified by distillation through a 10 cm vacuum jacketed Vigreux column. A fraction, bp 155°-7° C./0.2 mmHg, 154 g, 64% yield was collected. The following spectra properties were observed. 1H NMR (δ)1.97 (d,4H, J=0.94Hz), 6.15(t,2H,J=0.94Hz), 7.44-7.53 (m,6H), 7.67-7.71 (m,4H). 13C NMR (δ) 16.84, 127.90, 129.45, 131.00, 134.67, 135.71, 29Si NMR (δ) 8.51.

reactant | magnesium | 1.1 mol, 26.4 g | [Mg] | Mg
reactant | diphenyldichlorosilane | 1 mol, 253 g | C1(=CC=CC=C1)[Si](Cl)(Cl)C1=CC=CC=C1 | C12H10Cl2Si
reactant | 1,3-butadiene | 1.5 mol, 125 mL, 81 g | C=CC=C | C4H6
reactant | ammonium chloride | 100 mL | [Cl-].[NH4+]
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | ethylene glycol | C(CO)O | C2H6O2
solvent | THF | 500 mL | C1CCOC1 | C4H8O
product | 1,1-Diphenyl-1-silacyclopent-3-ene | 64% yield | C1(=CC=CC=C1)[Si]1(CC=CC1)C1=CC=CC=C1 | C16H16Si
